US07863302B2
6-Trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid tert-butyl ester
To a 0° C. solution of 6-hydroxy-benzofuran-2-carboxylic acid tert-butyl ester (0.51 g, 2.18 mmol) in dichloromethane (20 mL) and triethylamine (2.0 mL) is added trifluoromethanesulfonic anhydride (0.46 mL, 2.74 mmol). The mixture is stirred for 2 hours and quenched with MeOH (2.0 mL). The mixture is concentrated and the residue is purified by silica gel chromatography eluting with 15% EtOAc/Hexanes to provide (475 mg, 59%). 1H NMR (400 MHz, CDCl3): δ 7.70 (d, 1H), 7.52 (s, 1H), 7.41 (s, 1H), 7.23 (s, 1H), 1.60 (s, 9H).

reactant | 6-hydroxy-benzofuran-2-carboxylic acid tert-butyl ester | 2.18 mmol, 0.51 g | C(C)(C)(C)OC(=O)C=1OC2=C(C1)C=CC(=C2)O | C13H14O4
reactant | trifluoromethanesulfonic anhydride | 2.74 mmol, 0.46 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
product | 6-Trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1OC2=C(C1)C=CC(=C2)OS(=O)(=O)C(F)(F)F | C14H13F3O6S
